US09388197B2
A.2.4.1. Synthesis of 2-(3,5-dichloro-2-formylphenoxy)ethyl acetate
To a soln. of 4,6-dichlorosalicylaldehyde (3.72 mmol) in 5 mL DMF was added Cs2CO3 (3.72 mmol) followed by KI (3.72 mmol) and 2-bromoethylacetate (8.68 mmol). The reaction mixture was heated to 100° C. for 4 h and then stirred at RT for 3 days. The mixture was diluted with EtOAc and washed 3 times with water and then with brine. The comb. org. layers were dried over MgSO4 and conc. in vacuo. Purification with CC (20-100% EtOAc/Hept) gives the desired compound as beige solid.

reactant | 4,6-dichlorosalicylaldehyde | 3.72 mmol | ClC=1C=C(C(C=O)=C(C1)Cl)O | C7H4Cl2O2
reactant | Cs2CO3 | 3.72 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromoethylacetate | 8.68 mmol | BrCCOC(C)=O | C4H7BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3,5-dichloro-2-formylphenoxy)ethyl acetate | C(C)(=O)OCCOC1=C(C(=CC(=C1)Cl)Cl)C=O | C11H10Cl2O4
